US06821967B2
d. 8-bromo-2-piperazin-1-yl-quinoline
Prepared analogously to Example 3 from 8-bromo-2-chloro-quinoline and piperazine.

reactant | 8-bromo-2-chloro-quinoline | BrC=1C=CC=C2C=CC(=NC12)Cl | C9H5BrClN
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-bromo-2-piperazin-1-yl-quinoline | BrC=1C=CC=C2C=CC(=NC12)N1CCNCC1 | C13H14BrN3
